US07714126B2
A solution of 2-bromo-5-nitro-pyridine (4 g, 19.7 mmol) and methylamine (2 M in THF, 15 mL, 30 mmol) in methylene chloride (40 mL) was heated at 50 degrees overnight. After cooling to room temperature, the reaction mixture was concentrated to give methyl-(5-nitro-pyridin-2-yl)-amine that was used in the following step without purification. Acetic anhydride (9.3 mL, 98.5 mmol) was added to the solution of methyl-(5-nitro-pyridin-2-yl)-amine (3.01 g, 19.7 mmol), pyridine (24 mL, 197 mmol), and a catalytic amount of 4-dimethylamino-pyridine (DMAP) in methylene chloride (40 mL). The resulted mixture was heated at 90 degrees for overnight. After the reaction was complete, solvent was removed, and then ethyl acetate was added. The ethyl acetate solution was extracted three times with water. Organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck silica gel 60, 230-400 mesh, 50% ethyl acetate in hexane for 20 min) gave N-methyl-N-(5-nitro-pyridin-2-yl)-acetamide.

reactant | Acetic anhydride | 98.5 mmol, 9.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl-(5-nitro-pyridin-2-yl)-amine | 19.7 mmol, 3.01 g | CNC1=NC=C(C=C1)[N+](=O)[O-] | C6H7N3O2
reactant | pyridine | 197 mmol, 24 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-N-(5-nitro-pyridin-2-yl)-acetamide | CN(C(C)=O)C1=NC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
